** sch_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_analog/output_buffer/output_buffer_tb.sch
**.subckt output_buffer_tb VO
*.iopin VO
V1 VIN_BUF 0 DC 1.65 AC 1 0 PULSE(1.64 1.66 1m 1u 1u 9m 20m)
V2 AVDD 0 DC 3.3
CLOAD VO 0 100f
I0 net1 0 10u
x1 AVDD net1 VO VIN_BUF VO 0 output_buffer
RLOAD net2 0 100M
**** begin user architecture code

.lib cornerMOShv.lib mos_tt
.include /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cap_mfringe.lib



.param VCM=1.65
.param CLOAD_VALUE=100f
.param RLOAD_VALUE=100Meg

.control
set noaskquit
save all

* Operating point at the nominal output common-mode voltage.
op
write output_buffer_tb_op.raw
let vout_op = v(vo)
print vout_op

* Closed-loop small-signal response of the voltage follower.
ac dec 100 1 10Meg
let acl = v(vo)/v(vin_buf)
let acl_db = db(acl)
let acl_phase = 180/pi*cph(acl)
write output_buffer_tb_ac.raw

* Small-signal tracking and settling around VCM.
tran 1u 20m
let tracking_error = v(vo)-v(vin_buf)
let abs_tracking_error = abs(tracking_error)
meas tran t_band_entry when abs_tracking_error=0.2m fall=1 from=1m to=10m
meas tran vo_final find v(vo) at=19m
meas tran error_final find v(tracking_error) at=19m
meas tran error_peak max abs_tracking_error from=1m to=10m
meas tran vo_peak max v(vo) from=1m to=10m
meas tran vo_min min v(vo) from=1m to=10m
write output_buffer_tb_tran.raw

* DC transfer of the closed-loop follower.
dc V1 0.2 3.1 0.01
let dc_error = v(vo)-v(vin_buf)
let abs_dc_error = abs(dc_error)
write output_buffer_tb_dc.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  output_buffer.sym # of pins=6
** sym_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_analog/output_buffer/output_buffer.sym
** sch_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_analog/output_buffer/output_buffer.sch
.subckt output_buffer AVDD IBIAS VOUT VIN_BUF+ VIN_BUF- AVSS
*.iopin AVDD
*.iopin AVSS
*.iopin VOUT
*.iopin IBIAS
*.iopin VIN_BUF-
*.iopin VIN_BUF+
XM1 net1 VIN_BUF- net3 AVDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM2 net2 VIN_BUF+ net3 AVDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM3 net3 IBIAS AVDD AVDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM4 net1 net1 AVSS AVSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM5 net2 net1 AVSS AVSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM6 VOUT IBIAS AVDD AVDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM7 VOUT net2 AVSS AVSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM8 IBIAS IBIAS AVDD AVDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XC1 VOUT net2 cap_mfringe w=2.0u l=2.0u mmin=1 mmax=4
.ends

.end
