** sch_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/tgate/tb_tgate.sch
**.subckt tb_tgate
x1 net1 0 VDD_A VDD_D 0 net2 tgate
ITEST net1 net2 10u
VDD1 VDD_A 0 DC 3.3
VCM net1 0 DC 0 1.2 0.01
VDD2 VDD_D 0 DC 1.2
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt



.control
  run

  * Calculate Switch On-Resistance:
  let ron = (v(IN) - v(OUT)) / 10u

  plot ron title 'T-Gate On-Resistance vs Input Voltage' xlabel 'V_in (V)' ylabel 'R_on (Ohms)'

  write tb_tgate_dc.raw
.endc



**** end user architecture code
**.ends

* expanding   symbol:  tgate.sym # of pins=6
** sym_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/tgate/tgate.sym
** sch_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/tgate/tgate.sch
.subckt tgate IN AVSS AVDD EN ENB OUT
*.iopin AVDD
*.iopin AVSS
*.iopin IN
*.iopin OUT
*.ipin EN
*.ipin ENB
XM1 IN EN OUT AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XM2 OUT ENB IN AVDD sg13_lv_pmos w=2.5u l=0.13u ng=1 m=1 mm_ok=1
.ends

.end
