** sch_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/tgate/tb_tgate.sch
**.subckt tb_tgate
x1 IN 0 net1 net2 0 OUT tgate
ITEST IN OUT 10u
VDD_A net1 0 1.2
VCM IN 0 0
VDD_D net2 0 1.2
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt


.control
  run

  dc VCM 0 1.2 0.01

  * Calculate Switch On-Resistance:
  let ron = (v(OUT) - v(IN)) / 10u

  plot ron title 'T-Gate On-Resistance vs Input Voltage' xlabel 'V_in (V)' ylabel 'R_on (Ohms)'

  write tb_tgate_dc.raw
.endc



**** end user architecture code
**.ends

* expanding   symbol:  tgate.sym # of pins=6
** sym_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/tgate/tgate.sym
** sch_path: /foss/designs/Chipalooza/Programmable-Instrumentation-Amplifier-IP/designs/libs/core_digital/tgate/tgate.sch
.subckt tgate IN AVSS AVDD EN ENB OUT
*.iopin AVDD
*.iopin AVSS
*.iopin IN
*.iopin OUT
*.ipin EN
*.ipin ENB
XM1 IN EN OUT AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XM2 OUT ENB IN AVDD sg13_lv_pmos w=2.5u l=0.13u ng=1 m=1 mm_ok=1
.ends

.end
